US05066680
To a solution of N-(4-dimethylamino-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide 0.48 g) in methanol (5 ml) was added 6.4N methanolic hydrogen chloride (1.5 ml) and the solution was evaporated in vacuo. The oily residue was crystallized from a mixture of isopropyl alcohol and ethyl acetate to give N-(4-dimethylamino-2-butynyl)-2-cyclohexyl-2-hydroxy-2phenylacetamide hydrochloride (0.3 g).

reactant | N-(4-dimethylamino-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide | 0.48 g | CN(CC#CCNC(C(C1=CC=CC=C1)(O)C1CCCCC1)=O)C | C20H28N2O2
reactant | hydrogen chloride | 6.4N, 1.5 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | N-(4-dimethylamino-2-butynyl)-2-cyclohexyl-2-hydroxy-2phenylacetamide hydrochloride | 0.3 g | Cl.CN(CC#CCNC(C(C1=CC=CC=C1)(O)C1CCCCC1)=O)C | InChI=1S/C20H28N2O2.ClH/c1-22(2)16-10-9-15-21-19(23)20(24,17-11-5-3-6-12-17)18-13-7-4-8-14-18;/h3,5-6,11-12,18,24H,4,7-8,13-16H2,1-2H3,(H,21,23);1H
